US06586475B1
4-(4-Biphenylylmethoxy)phenyl-N-[2-(N,N-dimethylamino)ethyl]acetamide
A suspension of methyl 4-(4-biphenylylmethoxy)phenylacetate (1000 g), N,N-dimethylethylenediamine (795 g), and 1H-1,2,4-triazole (207 g) in methanol (2.0 l) was heated under reflux under nitrogen for 10 hr and was left to stand at room temperature over night. The reaction mixture was warmed to 60±2° C. and methanol (4.0 l) was added for 35 min. After stirring under reflux for additional one hr the reaction mixture was cooled to room temperature. The precipitate was collected by filtration and washed with methanol (2.0 l) to obtain the titled compound (1109 g).

reactant | methyl 4-(4-biphenylylmethoxy)phenylacetate | 1000 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)OC)C1=CC=CC=C1 | C22H20O3
reactant | N,N-dimethylethylenediamine | 795 g | CN(CCN)C | C4H12N2
reactant | 1H-1,2,4-triazole | 207 g | N1N=CN=C1 | C2H3N3
solvent | methanol | 2.0 l | CO | CH4O
solvent | methanol | 4.0 l | CO | CH4O
product | 4-(4-Biphenylylmethoxy)phenyl-N-[2-(N,N-dimethylamino)ethyl]acetamide | 1109 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)NCCN(C)C)C1=CC=CC=C1 | C25H28N2O2
